US06946531B2
Ethylene/1-Octene Polymerization Conditions I
All liquid feeds except ethylidenenorbornene (ENB) and gas feeds were passed through columns of alumina and a decontaminant (Q-5™ catalyst available from Englehardt Chemicals Inc.) prior to introduction into the reactor. ENB was passed through a short column (3×10 cm) of alumina prior to introduction to the reactor. Catalyst components are handled in a glovebox containing an atmosphere of argon or nitrogen. A stirred 2.0 liter reactor is charged with about 640 g of mixed alkanes solvent, 150 g of 1-octene and 16 g of ENB. Hydrogen (20 psi, 140 kPa) is added by differential pressure expansion from a 75 mL addition tank. The reactor is heated to 100° C. and saturated with ethylene at 500 psig (3.5 MPa). Metal complex as dilute toluene solution and cocatalyst as dilute solutions in toluene were mixed in a 1:1 molar ratio and transferred to a catalyst addition tank and injected into the reactor. The cocatalyst was methyldi(octadecyl)ammonium tetrakis(pentafluorophenyl)borate (MDBP), the ammonium cation of which is derived from a mixture of amines available commercially as methyl bis(tallow)amine. The polymerization conditions were maintained for 15 minutes with ethylene added on demand. The resulting solution was removed from the reactor, quenched with isopropyl alcohol, and stabilized by addition of a toluene solution containing about 67 mg/100 g polymer of a hindered phenol antioxidant (Irganox™ 1010 from Ciba Geigy Corporation) and about 133 mg/100 g polymer of a phosphorus stabilizer (Irgafos™ 168 from Ciba Geigy Corporation).

reactant | ethylidenenorbornene | C(C)=C1C2C=CC(C1)C2 | C9H12
reactant | 1-octene | 150 g | C=CCCCCCC | C8H16
reactant | ENB | 16 g | C(C)=C1C2C=CC(C1)C2 | C9H12
reactant | Hydrogen | [H][H] | H2
reactant | ethylene | C=C | C2H4
reactant | methyldi(octadecyl)ammonium tetrakis(pentafluorophenyl)borate | FC1=C(C(=C(C(=C1[B-](C1=C(C(=C(C(=C1F)F)F)F)F)(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.C[NH+](CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethylene/1-Octene | C=C.C=CCCCCCC | InChI=1S/C8H16.C2H4/c1-3-5-7-8-6-4-2;1-2/h3H,1,4-8H2,2H3;1-2H2
